US05883106
C. 2,5-Difluoro-3-methoxybenzaldehyde
Potassium fluoride (7.79 g, 134 mmol) and iodomethane (4.98 ml, 80 mmol) were added to a stirred solution of 3-tert-butyldimethylsilyloxy-2,5-difluorobenzaldehyde (19.45 g, 67 mmol) in DMF (100 ml) at room temperature. After 5 hr, the mixture was poured into water (100 ml) and extracted with ethyl acetate (200 ml). The extract was washed with water (100 ml), brine (100 ml), dried (magnesium sulfate) and evaporated. The residue was purified by column chromatography (silica gel) eluting with ethyl acetate/n-hexane (1/10) to give 8.58 g (74%) of the titled compound as a white solid.

reactant | Potassium fluoride | 134 mmol, 7.79 g | [F-].[K+]
reactant | iodomethane | 80 mmol, 4.98 ml | IC | CH3I
reactant | 3-tert-butyldimethylsilyloxy-2,5-difluorobenzaldehyde | 67 mmol, 19.45 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C=O)C=C(C1)F)F | C13H18F2O2Si
reactant | water | 100 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2,5-Difluoro-3-methoxybenzaldehyde | 8.58 g, 74% | FC1=C(C=O)C=C(C=C1OC)F | C8H6F2O2
